US05455348
2-Bromo-5-(4-methoxyphenyl)pyrazine
26.1 g of 5-(4-methoxyphenyl)-2(1H)pyrazinone and 140 g of phosphorusoxybromide are heated to 100° C. for 45 minutes. After cooling, the hardened mass is added in batches to ice and water, with stirring. After 30 minutes stirring the mixture is left to stand for 18 hours and the precipitate is suction filtered. The filtrate is extracted with methylene chloride and the precipitate is dissolved in methylene chloride extract. The methylene chloride solution is washed with sodium bicarbonate solution, dried, filtered over activated charcoal and evaporated down.

reactant | 5-(4-methoxyphenyl)-2(1H)pyrazinone | 26.1 g | COC1=CC=C(C=C1)C=1N=CC(NC1)=O | C11H10N2O2
reactant | phosphorusoxybromide | 140 g | P(=O)(Br)(Br)Br | Br3OP
solvent | water | O | H2O
product | 2-Bromo-5-(4-methoxyphenyl)pyrazine | BrC1=NC=C(N=C1)C1=CC=C(C=C1)OC | C11H9BrN2O
